* C:\dev\MR-Launch-Controller\2_Electrical\2_Simulation\2026-08-09_12v-ignition-circuit_r01.asc
* Generated by LTspice 26.0.2 for Windows.
V1 battery 0 12V
D1 0 safed_power D
R1 safed_power N004 680
R2 N005 N006 680
D§led_power N004 0 D
D§led_cont N006 0 D
R3 arm_state safed_power 10K
R4 N002 safed_power 680
R5 launch N001 120
Q1 N005 N003 safed_power 0 2N5087
R6 ignitor_hot N003 4.7K
R7 ignitor_hot safed_power 4.7K
D§led_arm N002 arm_state D
M1 ignitor_hot launch safed_power safed_power AO6407
R§igniter ignitor_hot 0 1.7
D5 0 ignitor_hot D
R8 safed_power launch 4.7K
V2 safe 0 PULSE(0 5 .25s 1ms 1ms .75s 1 1)
V3 arm 0 PULSE(0 5 .5s .1us .1us .5s 1 1)
V4 fire 0 PULSE(0 5 .75 .1us .1us 100ms 1s 1)
S1 battery safed_power safe 0 safe_sw
S2 0 arm_state arm 0 arm_sw
S3 arm_state N001 fire 0 fire_sw
.model D D
.lib C:\Users\chill\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\chill\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\chill\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1s
.model safe_sw SW(Ron=0.1 Roff=1Meg Vt=0.5)
.model arm_sw SW(Ron=0.1 Roff=1Meg Vt=0.5)
.model fire_sw SW(Ron=0.1 Roff=1Meg Vt=0.5)
.backanno
.end
